US08372864B2
Added to a suspension of 1 g of 2-bromo-4-fluorophenethylamine hydrocloride in 25 cm3 of dichloromethane and under an inert atmosphere is 663 μL of triethylamine. After stirring for 30 min at a temperature close to 20° C., 5 cm3 of distilled water are added and the stirring is continued for 30 min. 15 cm3 of distilled water are added and the two phases are separated. The organic phase is washed with three lots of 10 cm3 of distilled water, then dried. Added to the solution obtained are successively 449 mg of 4-heptanone and 1.166 g of sodium triacetoxyborohydride. The reaction mixture is stirred for 15 h at a temperature close to 20° C. 20 cm3 of a saturated solution of sodium hydrogen carbonate are then added to the reaction medium. The organic phase is decanted and separated from the aqueous phase then washed successively with 15 cm3 of distilled water and 15 cm3 of a saturated solution of sodium chloride. The organic phase is dried then concentrated using a rotary evaporator under reduced pressure (5 kPa). 1.069 g of N-[2-(2-bromo-4-fluorophenyl)ethyl]heptan-4-amine are obtained in the form of a colorless oil.

reactant | 2-bromo-4-fluorophenethylamine hydrocloride | 1 g | Cl.BrC1=C(CCN)C=CC(=C1)F
reactant | 4-heptanone | 449 mg | CCCC(CCC)=O | C7H14O
reactant | sodium triacetoxyborohydride | 1.166 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 25 cm3 | ClCCl | CH2Cl2
solvent | water | 15 cm3 | O | H2O
solvent | water | 5 cm3 | O | H2O
solvent | triethylamine | 663 μL | C(C)N(CC)CC | C6H15N
product | N-[2-(2-bromo-4-fluorophenyl)ethyl]heptan-4-amine | 1.069 g | BrC1=C(C=CC(=C1)F)CCNC(CCC)CCC | C15H23BrFN
